US07786307B2
a) (R)-Cyclohexyl-methoxy-acetic acid
An autoclave is charged with a solution of 1.00 g of (R)-α-methoxy-phenyl acetic acid in 20 ml methanol. 0.100 g of Nishimura catalyst are added and the mixture is hydrogenated at 4 bar and 20° C. for 1 hour. The mixture is filtered over Hyflo and the filtrate concentrated by evaporation to provide the title compound as a colourless oil. The crude material is used without further purification. Rf=0.84 (150:54:10:1 dichloromethane-methanol-water-acetic acid)

reactant | (R)-α-methoxy-phenyl acetic acid | 1.00 g | CO[C@@H](C(=O)O)C1=CC=CC=C1 | C9H10O3
solvent | methanol | 20 ml | CO | CH4O
product | (R)-Cyclohexyl-methoxy-acetic acid | C1(CCCCC1)[C@H](C(=O)O)OC | C9H16O3
